US04345016
(5) Synthesis of 2-tert-butyl-1,4-benzoquinone
16.6 g (0.10 mol) of 2-tert-butylhydroquinone was placed in a 200 cc 3-neck flask. After adding 17.4 g (0.20 mol) of powdery manganese dioxide, 100 cc of toluene was added thereto, and the mixture was heated with stirring. The temperature was maintained at 70° C. for 3 hours. After cooling to room temperature, the manganese dioxide was removed by filtration by means of suction using Celite as a filter aid. Then the manganese dioxide was washed with 50 cc of toluene, and the toluene was evaporated to dryness, by which 2-tert-butyl-1,4-benzoquinone was obtained. The yield was 80% and the melting point was 48°-50° C.

reactant | 2-tert-butylhydroquinone | 0.10 mol, 16.6 g | C(C)(C)(C)C1=C(O)C=CC(=C1)O | C10H14O2
catalyst | manganese dioxide | 0.20 mol, 17.4 g | [O-2].[O-2].[Mn+4]
solvent | toluene | 100 cc | C1(=CC=CC=C1)C | C7H8
product | 2-tert-butyl-1,4-benzoquinone | yield was 80% | C(C)(C)(C)C=1C(C=CC(C1)=O)=O | C10H12O2
